US08134007B2
Ethyl 3-methyl-1H-pyrazole-4-carboxylate
To a solution of 3-methyl-1H-pyrazole-4-carboxylic acid (2.986 g, 23.68 mmol) in ethanol (20 ml) was added concentrated sulphuric acid (1 ml). The reaction was heated at reflux for 6 hours, cooled to room temperature, and then poured into a saturated aqueous solution of NaHCO3. The mixture was extracted with dichloromethane (3×50 ml) then the combined organic extracts dried over MgSO4 and concentrated in vacuo. The product crystallised on standing (2.105 g, 58% yield).

reactant | 3-methyl-1H-pyrazole-4-carboxylic acid | 23.68 mmol, 2.986 g | CC1=NNC=C1C(=O)O | C5H6N2O2
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 3-methyl-1H-pyrazole-4-carboxylate | 58% yield | CC1=NNC=C1C(=O)OCC | C7H10N2O2
